US05834506
5-tert-Butyl-4-dimethylthiocarbamoyloxy-2-methyl-benzoic acid methyl ester
To a solution of 5-tert-butyl-4-hydroxy-2-methylbenzoic acid methyl ester from Example BBB (15.1 g, 68 mmol) in DMF (150 mL) was added NaH (3.3 g of a 60% dispersion, 82 mmol), and the mixture was stirred at room temperature for 1 hour. N,N-Dimethylthiocarbamoyl chloride (10.1 g, 82 mmol) was added all at once; the reaction mixture was stirred at 55° C. for 36 hours and then cooled to room temperature. H2O (200 mL) was added, and the solution was extracted with EtOAc. The combined extracts were washed with 1N NaOH, 1N HCl, and brine. The organic phase was dried (MgSO4) and concentrated. The residue was chromatographed on silica gel, eluting with 6:1 hexane:EtOAc, to give the title compound. 1H NMR (CDCl3) δ 1.37 (s, 9 H), 2.55 (s, 3 H), 3.39 (s, 3 H), 3.49 (s, 3 H), 3.89 (s, 3 H), 6.90 (s, 1 H), 8.01 (s, 1 H).

reactant | 5-tert-butyl-4-hydroxy-2-methylbenzoic acid methyl ester | COC(C1=C(C=C(C(=C1)C(C)(C)C)O)C)=O | C13H18O3
reactant | NaH | [H-].[Na+]
reactant | N,N-Dimethylthiocarbamoyl chloride | 82 mmol, 10.1 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | H2O | 200 mL | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 5-tert-Butyl-4-dimethylthiocarbamoyloxy-2-methyl-benzoic acid methyl ester | COC(C1=C(C=C(C(=C1)C(C)(C)C)OC(N(C)C)=S)C)=O | C16H23NO3S
